US03931288
A suspension of 6.2 g. of freshly distilled 3-methoxyphenol and 6.9 g. of potassium carbonate in 20 ml. of dimethylformamide was heated at 100° for 15 minutes. To the stirred suspension was added dropwise 12.5 g. of 3-bromo-4-ketocyclohexanecarboxylic acid ethyl ester in 5 ml. of dimethylformamide, and the resulting mixture was stirred at 100° for 30 minutes. After cooling, 150 ml. of water was added, and the reaction mixture was extracted with three 150 ml. portions of ether. The ether layers were washed with 1N sodium hydroxide and water, dried over sodium sulfate, and treated with charcoal. Evaporation of the solvent gave 8.5 g. of 3-(m-methoxyphenoxy)-4-oxocyclohexanecarboxylic acid ethyl ester as a yellow oil. A mixture of this material and 85 g. of polyphosphoric acid was stirred for 15 minutes at room temperature, and added to 150 ml. of ice water. Thereafter, the mixture was extracted with three 150 ml. portions of ether. The ether extracts were washed with saturated aqueous sodium bicarbonate and brine, and dried over sodium sulfate. Evaporation of the solvent gave 7 g. of 7-methoxy-1,2-dihydro-3(4H)-dibenzofurancarboxylic acid ethyl ester as a dark oil, which was dissolved in 100 ml. of ethanol and 50 ml. of 2N sodium hydroxide. The resulting solution was heated at reflux temperature for 1 hour. The ethanol was removed under reduced pressure. After the addition of 150 ml. of water, the reaction mixture was extracted with ether. The aqueous layer was treated with charcoal, cooled in an ice water bath, and neutralized with 50 ml. of 2N hydrochloric acid. The solids which formed were removed by filtration and were crystallized from acetone-water to give 3.8 g. of crystals, m.p. 175°-180°. Recrystallization from acetonitrile-water gave 7-methoxy-1,2-dihydro-3(4H)-dibenzofurancarboxylic acid as white crystals, m.p. 181°-183°.

reactant | 3-methoxyphenol | COC=1C=C(C=CC1)O | C7H8O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 3-bromo-4-ketocyclohexanecarboxylic acid ethyl ester | C(C)OC(=O)C1CC(C(CC1)=O)Br | C9H13BrO3
reactant | 3-(m-methoxyphenoxy)-4-oxocyclohexanecarboxylic acid ethyl ester | C(C)OC(=O)C1CC(C(CC1)=O)OC1=CC(=CC=C1)OC | C16H20O5
reactant | 7-methoxy-1,2-dihydro-3(4H)-dibenzofurancarboxylic acid ethyl ester | C(C)OC(=O)C1CCC2=C(OC3=C2C=CC(=C3)OC)C1 | C16H18O4
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 7-methoxy-1,2-dihydro-3(4H)-dibenzofurancarboxylic acid | COC1=CC2=C(C3=C(O2)CC(CC3)C(=O)O)C=C1 | C14H14O4
